US03952001
A mixture of 6.4 g. 3-isopropylsulphinyl-1,2,4-triazole, 8.0 ml. dipropylcarbamoyl chloride, 25 ml. dry tetrahydrofuran and 10 ml. dry triethylamine was refluxed under anhydrous conditions for 2 hours. The cooled reaction mixture was filtered and the filtrate distilled under reduced pressure to give 1-dipropylcarbamoyl-3-isopropylsulphinyl-1,2,4-triazole as an oily residue which subsequently solidified, m.p. 15° - 20°C. Elemental analysis satisfactory.

reactant | 3-isopropylsulphinyl-1,2,4-triazole | C(C)(C)S(=O)C1=NNC=N1 | C5H9N3OS
reactant | dipropylcarbamoyl chloride | C(CC)N(C(=O)Cl)CCC | C7H14ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-dipropylcarbamoyl-3-isopropylsulphinyl-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)S(=O)C(C)C)CCC | C12H22N4O2S
